US07906649B2
A solution of tert-butyl 2-cyano-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate (150 mg) in trifluoroacetic acid and dichloromethane (1:1, 1 mL) was stirred for one h and evaporated. The residue was purified by flash column chromatography (silica, 0-4% methanol containing 10% ammonium hydroxide in dichloromethane) to yield 6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine-2-carbonitrile.

reactant | tert-butyl 2-cyano-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate | 150 mg | C(#N)C=1N=CC2=C(N1)CN(C2)C(=O)OC(C)(C)C | C12H14N4O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine-2-carbonitrile | N1=C(N=CC2=C1CNC2)C#N | C7H6N4
